US07601736B2
2-chloro4-methyl-6-phenyl-nicotinonitrile (455 mg, 1.99 mmol) was dissolved in 20 mL of DME, added with 95% sodium methoxide (1.13 g, 19.90 mmol) and then stirred at room temperature for about 1 hour. The mixture was added to cool water and was adjusted to have a pH of about 6 to 7 with 10% HCl and then extracted with ethyl acetate. A silica gel column chromatography (10% EtOAc/Hexane) was performed on the resulting residue and 370 mg (83%) of 2-methoxy-4-methyl-6-phenyl-nicotinonitrile was obtained in white solid.

reactant | 2-chloro4-methyl-6-phenyl-nicotinonitrile | 1.99 mmol, 455 mg | ClC1=C(C#N)C(=CC(=N1)C1=CC=CC=C1)C | C13H9ClN2
reactant | sodium methoxide | 19.90 mmol, 1.13 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 2-methoxy-4-methyl-6-phenyl-nicotinonitrile | 370 mg, 83% | COC1=C(C#N)C(=CC(=N1)C1=CC=CC=C1)C | C14H12N2O
